US05932567
(c) 3-Hydroxy-4-methylbenzonitrile
A solution of 49.2 g (0.72 mol) of NaNO2 in 217 ml of water was added dropwise to 85 g (0.72 mol) of 3-amino-4-methylbenzonitrile in 1.8 l of 6N HCl at 0-5° C. over the course of 0.5 h. The mixture was then stirred at 0-5° C. for a further 30 min and subsequently at the boiling point for 1 h. After the solution had cooled, the product was extracted with ethyl acetate and, from this, in the form of the phenolate with ice-cooled 5 N NaOH. The aqueous phase was then acidified to pH 3 with 6N HCl, and the product was extracted with ethyl acetate. 41 g (43%) were obtained. 1H-NMR (DMSO-d6 ; δ in ppm): 10.3 (s, OH); 7.25 (dd, 1H); 7.15 (d, 1H); 7.1 (dd, 1H); 2.20 (s, 3H)

reactant | NaNO2 | 0.72 mol, 49.2 g | N(=O)[O-].[Na+]
reactant | 3-amino-4-methylbenzonitrile | 0.72 mol, 85 g | NC=1C=C(C#N)C=CC1C | C8H8N2
solvent | water | 217 ml | O | H2O
solvent | HCl | 6N, 1.8 l | Cl | ClH
product | 3-Hydroxy-4-methylbenzonitrile | OC=1C=C(C#N)C=CC1C | C8H7NO
